### PR TITLE
Cup product

### PR DESCRIPTION
**Pull request by aljungstrom**
Here's a big one... Sorry...

This PR contains:

1. A definition of the cup product (integer cohomology) with associativity, distributivity laws and graded commutativity.
2. A proof (by computation!) that the torus is not equal to the wedge sum of a sphere with two circles.
3. Fixed minor todo in `Homotopy.WedgeConnectivity`
4. Some other minor lemmas.

Edit:
Added cohomology groups of CP2.

### CODE REVIEW

File: Cubical/Foundations/GroupoidLaws.agda [hunk 1]
```diff
@@ -274,6 +276,12 @@ symDistr-filler {A = A} {z = z} p q i j k =
 symDistr : ∀ {ℓ} {A : Type ℓ} {x y z : A} (p : x ≡ y) (q : y ≡ z) → sym (p ∙ q) ≡ sym q ∙ sym p
 symDistr p q i j = symDistr-filler p q j i i1
 
+sym-∙∙ : ∀ {ℓ} {A : Type ℓ} {x y z w : A} → (p : x ≡ y) (q : y ≡ z) (r : z ≡ w) → sym (p ∙∙ q ∙∙ r) ≡ (sym r ∙∙ sym q ∙∙ sym p)
+sym-∙∙ p q r i j =
+  hcomp (λ k → λ { (j = i0) → r k
+                 ; (j = i1) → p (~ k)})
+        (q (~ j))
+
```
Comment (ecavallo) [inline Cubical/Foundations/GroupoidLaws.agda:284]: drive-by comment: this is true by refl

File: Cubical/ZCohomology/GroupStructure.agda [hunk 2]
```diff
@@ -672,6 +672,20 @@ inv' (addIso n x) y = y -[ n ]ₖ x
...
+  where
+  isEqHelp : (n : ℕ) (x : coHomK (suc n)) → isEquiv λ p → sym (rUnitₖ _ x) ∙∙ cong (x +ₖ_) p ∙∙ rUnitₖ _ x
+  isEqHelp zero =
+    trElim (λ _ → isProp→isOfHLevelSuc 2 (isPropIsEquiv _))
+      (sphereToPropElim 0 (λ _ → isPropIsEquiv _)
+        (subst isEquiv (funExt (λ p → (λ i → cong (λ x → lUnitₖ 1 x (~ i)) p) ∙∙ refl ∙∙ rUnit _)) (idIsEquiv _)))
+  isEqHelp (suc n) =
+    trElim (λ _ → isProp→isOfHLevelSuc (3 + n) (isPropIsEquiv _))
+      (sphereToPropElim (suc n) (λ _ → isPropIsEquiv _)
+        (subst isEquiv (funExt (λ p → (λ i → cong (λ x → lUnitₖ (2 + n) x (~ i)) p) ∙ rUnit _)) (idIsEquiv _)))
```
[the remark this answers is not in the document]
Comment (aljungstrom) [reply Cubical/ZCohomology/GroupStructure.agda:687]: Right, dunno why I did it this way. Decided now to describe the inverse explicitly instead. Should be better for computations.

File: Cubical/Data/Nat/Base.agda [hunk 3]
```diff
@@ -44,3 +47,12 @@ isEven zero = true
 isEven (suc n) = isOdd n
 isOdd zero = false
 isOdd (suc n) = isEven n
+
+--Typed version
```
Comment (mortberg) [inline Cubical/Data/Nat/Base.agda:51]: Wouldn't it be nicer to define these by composing `isEven`/`isOdd` with a map sending `true` to `Unit` and `false` to `⊥`?

Comment (mortberg) [reply Cubical/Data/Nat/Base.agda:51]: Also the name is not very good... Maybe `isEvenType` or `isEvenT`?

File: Cubical/Data/Nat/Properties.agda [hunk 4]
```diff
@@ -179,3 +180,32 @@ _choose_ : ℕ → ℕ → ℕ
 n choose zero = 1
 zero choose suc k = 0
 suc n choose suc k = n choose (suc k) + n choose k
+
+isEven'-suc : (n : ℕ) → isOdd' n → isEven' (suc n)
```
Comment (mortberg) [inline Cubical/Data/Nat/Properties.agda:184]: Don't these hold by def for the other def of isEven/isOdd?

File: Cubical/Data/Nat/Properties.agda [hunk 5]
```diff
@@ -179,3 +180,32 @@ _choose_ : ℕ → ℕ → ℕ
...
+evenOrOdd zero = inl tt
+evenOrOdd (suc zero) = inr tt
+evenOrOdd (suc (suc n)) = evenOrOdd n
+
+¬evenAndOdd : (n : ℕ) → ¬ isEven' n × isOdd' n
+¬evenAndOdd zero (p , ())
+¬evenAndOdd (suc zero) ()
+¬evenAndOdd (suc (suc n)) = ¬evenAndOdd n
+
+isPropIsEven' : (n : ℕ) → isProp (isEven' n)
```
Comment (mortberg) [inline Cubical/Data/Nat/Properties.agda:202]: What about `isPropIsOdd'`?

File: Cubical/Foundations/GroupoidLaws.agda [hunk 6]
```diff
@@ -236,6 +236,8 @@ hcomp-cong : ∀ {ℓ} {A : Type ℓ} {φ} → (u : I → Partial φ A) → (u0
              → (hcomp u (outS u0) ≡ hcomp u' (outS u0')) [ φ ↦ (\ { (φ = i1) → ueq i1 1=1 }) ]
 hcomp-cong u u0 u' u0' ueq 0eq = inS (\ j → hcomp (\ i o → ueq i o j) (outS 0eq j))
 
+
```
Comment (mortberg) [inline Cubical/Foundations/GroupoidLaws.agda:239]: Why add space?

File: Cubical/Foundations/Path.agda [hunk 7]
```diff
@@ -188,6 +188,65 @@ Square≃doubleComp : {a₀₀ a₀₁ a₁₀ a₁₁ : A}
                     → Square a₀₋ a₁₋ a₋₀ a₋₁ ≃ (a₋₀ ⁻¹ ∙∙ a₀₋ ∙∙ a₋₁ ≡ a₁₋)
 Square≃doubleComp a₀₋ a₁₋ a₋₀ a₋₁ = transportEquiv (PathP≡doubleCompPathˡ a₋₀ a₀₋ a₁₋ a₋₁)
 
+-- Flipping a square in Ω²A is the same as inverting it
+sym≡flipSquare : ∀ {ℓ} {A : Type ℓ} {x : A} (P : Square (refl {x = x}) refl refl refl)
```
Comment (mortberg) [inline Cubical/Foundations/Path.agda:192]: Why quantify over `ℓ` and `A` when they are variables in the file?

File: Cubical/Foundations/Path.agda [hunk 8]
```diff
@@ -188,6 +188,65 @@ Square≃doubleComp : {a₀₀ a₀₁ a₁₀ a₁₁ : A}
...
+                         (λ k → q (~ j ∧ k))
+                         (λ k → p (j ∨ k)))
+           (sym P)
+           (flipSquare P))
+         λ q → J (λ q P → PathP (λ j → PathP (λ i → Path A x (q (i ∨ ~ j)))
+                             (λ k → q (~ j ∧ k)) refl)
+                             (λ i → P (~ i)) λ i j → P j i) refl
+
+-- Inverting both interval arguments of a square in Ω²A is the same as doing nothing
+sym-cong-sym≡id : ∀ {ℓ} {A : Type ℓ} {x : A} (P : Square (refl {x = x}) refl refl refl)
```
Comment (mortberg) [inline Cubical/Foundations/Path.agda:214]: Same here

File: Cubical/Foundations/Pointed/Base.agda [hunk 9]
```diff
@@ -31,6 +31,11 @@ idfun∙ : ∀ {ℓ} (A : Pointed ℓ) → A →∙ A
 idfun∙ A .fst x = x
 idfun∙ A .snd = refl
 
+ua∙ : ∀ {ℓ} {A B : Pointed ℓ} (e : fst A ≃ fst B)
```
Comment (mortberg) [inline Cubical/Foundations/Pointed/Base.agda:34]: @ecavallo @mzeuner Didn't we prove this for the SIP at some point? If so, where?

File: Cubical/ZCohomology/Groups/WedgeOfSpheres.agda [hunk 10]
```diff
@@ -22,6 +22,16 @@ open import Cubical.HITs.Truncation renaming (elim to trElim) hiding (map ; elim
...
 open import Cubical.HITs.SetTruncation renaming (rec to sRec ; rec2 to sRec2 ; elim to sElim)
 
+open import Cubical.ZCohomology.Properties
+open import Cubical.Data.Nat
+open import Cubical.Foundations.Function
+open import Cubical.Foundations.Pointed
+open import Cubical.Data.Sigma
+open import Cubical.Homotopy.WedgeConnectivity
+open import Cubical.Foundations.HLevels
+open import Cubical.ZCohomology.RingStructure.CupProduct
```
Comment (mortberg) [inline Cubical/ZCohomology/Groups/WedgeOfSpheres.agda:32]: This are in a very weird order... Can you please organize them a bit?

File: Cubical/ZCohomology/Properties.agda [hunk 11]
```diff
@@ -469,6 +473,12 @@ Kn→ΩKn+1-hom (suc n) = σ-hom
    ∙ winding-hom (cong (trRec isGroupoidS¹ (λ x → x)) p) (cong (trRec isGroupoidS¹ (λ x → x)) q)
 ΩKn+1→Kn-hom (suc n) = encode-hom
 
+Kn→ΩKn+1-ₖ : (n : ℕ) (x : coHomK n) → Kn→ΩKn+1 n (-ₖ x) ≡ sym (Kn→ΩKn+1 n x)
+Kn→ΩKn+1-ₖ n x = (lUnit _ ∙∙ cong (_∙ Kn→ΩKn+1 n (-ₖ x)) (sym (lCancel _)) ∙∙ sym (assoc∙ _ _ _)) ∙∙ cong (sym (Kn→ΩKn+1 n x) ∙_) help ∙∙ sym (rUnit _)
```
Comment (mortberg) [inline Cubical/ZCohomology/Properties.agda:477]: Long line

File: Cubical/ZCohomology/RingStructure/CupProduct.agda [hunk 12]
```diff
@@ -0,0 +1,91 @@
...
+open import Cubical.Foundations.Prelude
+open import Cubical.Foundations.Pointed
+open import Cubical.Data.Int hiding (_+'_ ; +'≡+ ; _+_)
+open import Cubical.Data.Nat
+
+infixl 30 _·₀_
+infixr 35 _⌣ₖ_
+infixr 35 _⌣_
+
+--- This definition of ℕ-addition removes some unnecessary transports.
```
Comment (mortberg) [inline Cubical/ZCohomology/RingStructure/CupProduct.agda:23]: Maybe make it private though?

Comment (mortberg) [reply Cubical/ZCohomology/RingStructure/CupProduct.agda:23]: Or move to Data.Nat? Maybe it's actually useful elsewhere...

File: Cubical/ZCohomology/RingStructure/CupProduct.agda [hunk 13]
```diff
@@ -0,0 +1,91 @@
...
+zero +' b = b
+suc a +' zero = suc a
+suc a +' suc b = 2 + (a + b)
+
++'≡+ : (n m : ℕ) → n +' m ≡ n + m
++'≡+ zero m = refl
++'≡+ (suc n) zero = cong suc (sym (+-comm n zero))
++'≡+ (suc n) (suc m) = cong suc (sym (+-suc n m))
+
+-- Cup product with one integer (K₀) argument
```
Comment (mortberg) [inline Cubical/ZCohomology/RingStructure/CupProduct.agda:34]: Why have `{n = n}`? I don't think it's used in the RHS?

File: Cubical/ZCohomology/RingStructure/CupProduct.agda [hunk 14]
```diff
@@ -0,0 +1,91 @@
...
+_·₀_ {n = n} (pos (suc m)) x = x +ₖ (pos m ·₀ x)
+_·₀_ {n = n} (negsuc zero) x = -ₖ x
+_·₀_ {n = n} (negsuc (suc m)) x = (negsuc m ·₀ x) -ₖ x
+
+·₀-0ₖ : {n : ℕ} (m : ℤ) → _·₀_ m (0ₖ n) ≡ 0ₖ n
+·₀-0ₖ (pos zero) = refl
+·₀-0ₖ (pos (suc n)) = cong (0ₖ _ +ₖ_) (·₀-0ₖ (pos n)) ∙ rUnitₖ _ (0ₖ _)
+·₀-0ₖ {n = zero} (negsuc zero) = refl
+·₀-0ₖ {n = suc zero} (negsuc zero) = refl
+·₀-0ₖ {n = suc (suc k)} (negsuc zero) = refl
```
Comment (mortberg) [inline Cubical/ZCohomology/RingStructure/CupProduct.agda:46]: Do you really have to match on `n` here?

File: Cubical/ZCohomology/RingStructure/GradedCommutativity.agda [hunk 15]
```diff
@@ -0,0 +1,1082 @@
...
+open import Cubical.Data.Sigma
+open import Cubical.Data.Empty renaming (rec to ⊥-rec)
+open import Cubical.Data.Sum
+
+private
+  variable
+    ℓ : Level
+
+private
+  natTranspLem : ∀ {A B : ℕ → Type} {n m : ℕ} (a : A n)
```
Comment (mortberg) [inline Cubical/ZCohomology/RingStructure/GradedCommutativity.agda:43]: Doesn't this hold more generally for arbitrary families? Anyway seems like a useful lemma that should be upstreamed

File: Cubical/ZCohomology/RingStructure/GradedCommutativity.agda [hunk 16]
```diff
@@ -0,0 +1,1082 @@
...
+  transp0₁ zero = refl
+  transp0₁ (suc n) = refl
+
+  transp0₂ : (n m : ℕ) → subst coHomK (+'-comm (suc (suc n)) (suc m)) (0ₖ _) ≡ 0ₖ _
+  transp0₂ n zero = refl
+  transp0₂ n (suc m) = refl
+
+-- Recurring expressions
+private
+  ΩKn+1→Ω²Kn+2 : {k : ℕ} → typ (Ω (coHomK-ptd k))
```
Comment (mortberg) [inline Cubical/ZCohomology/RingStructure/GradedCommutativity.agda:62]: Not sure if you need this many linebreaks in the type and def?

File: Cubical/ZCohomology/RingStructure/GradedCommutativity.agda [hunk 17]
```diff
@@ -0,0 +1,1082 @@
...
+    → typ ((Ω^ 2) (coHomK-ptd (suc k)))
+  ΩKn+1→Ω²Kn+2 x =
+       sym (Kn→ΩKn+10ₖ _)
+    ∙∙ cong (Kn→ΩKn+1 _) x
+    ∙∙ Kn→ΩKn+10ₖ _
+
+  ΩKn+1→Ω²Kn+2' : {k : ℕ} → Kn→ΩKn+1 k (0ₖ k) ≡ Kn→ΩKn+1 k (0ₖ k)
```
Comment (mortberg) [inline Cubical/ZCohomology/RingStructure/GradedCommutativity.agda:69]: Same here

File: Cubical/ZCohomology/RingStructure/GradedCommutativity.agda [hunk 18]
```diff
@@ -0,0 +1,1082 @@
...
+         λ { base → refl ; (loop i) → refl}
+-ₖ-gen-inl-right {k = suc zero} n m (inr x₁) q =
+  trElim (λ _ → isOfHLevelTruncPath)
+         λ { base → refl ; (loop i) → refl}
+-ₖ-gen-inl-right {k = suc (suc k)} n m (inl x₁) q =
+  trElim (λ _ → isOfHLevelTruncPath)
+         λ { north → refl
+           ; south → cong ∣_∣ₕ (merid (ptSn _))
+           ; (merid a i) k → ∣ compPath-filler (merid a) (sym (merid (ptSn _))) (~ k) i  ∣ₕ}
+-ₖ-gen-inl-right {k = suc (suc k)} n m (inr x₁) q =
```
Comment (mortberg) [inline Cubical/ZCohomology/RingStructure/GradedCommutativity.agda:158]: Is this this exactly the same as the `-ₖ-gen-inl-right {k = suc (suc k)} n m (inl x₁) q` case?

Comment (mortberg) [reply Cubical/ZCohomology/RingStructure/GradedCommutativity.agda:158]: Same for some other cases here... Why not use `_`?

File: Cubical/ZCohomology/RingStructure/GradedCommutativity.agda [hunk 19]
```diff
@@ -0,0 +1,1082 @@
...
+                     (gradedComm-elimCase-left n (evenOrOdd (suc n)) (inr tt) a (loop i) k) j))
+       ∙∙ λ i → (Kn→ΩKn+1 (suc (suc (n + 0))))
+                   (compPath-filler'
+                     ((gradedComm-elimCase-left n (evenOrOdd (suc n)) (inr tt) a base))
+                    (cong (-ₖ-gen (suc n) 1 (evenOrOdd (suc n)) (inr tt))
+                     (transp0₁ n)) (~ k) i)) i j
+
+    help₂ : I → I → I → coHomK _
+    help₂ r i j =
+      hcomp (λ k →
```
Comment (mortberg) [inline Cubical/ZCohomology/RingStructure/GradedCommutativity.agda:751]: Yikes, I think we might have a new high dimension hcomp master! @ecavallo

File: Cubical/ZCohomology/RingStructure/GradedCommutativity.agda [hunk 20]
```diff
@@ -0,0 +1,1082 @@
...
+Kn→ΩKn+1-ₖ' : {k : ℕ} (n m : ℕ) (p : _) (q : _) (x : coHomK k)
+  → Kn→ΩKn+1 k (-ₖ-gen n m (inr p) (inr q) x) ≡ sym (Kn→ΩKn+1 k x)
+Kn→ΩKn+1-ₖ' n m p q x = cong (Kn→ΩKn+1 _) (-ₖ-gen-inr≡-ₖ n m p q x) ∙ Kn→ΩKn+1-ₖ _ x
+
+transpΩ² : {n m : ℕ} (p q : n ≡ m) → (P : _)
+        → transport (λ i → refl {x = 0ₖ (p i)} ≡ refl {x = 0ₖ (p i)}) P
+        ≡ transport (λ i → refl {x = 0ₖ (q i)} ≡ refl {x = 0ₖ (q i)}) P
+transpΩ² p q P k = subst (λ n → refl {x = 0ₖ n} ≡ refl {x = 0ₖ n}) (isSetℕ _ _ p q k) P
+
+-- Some technical lemmas about Kn→Ω²Kn+2 and its interaction with -ₖⁿ̇*ᵐ and transports
```
Comment (mortberg) [inline Cubical/ZCohomology/RingStructure/GradedCommutativity.agda:219]: These are pretty much unreadable to me, but it looks like many cases are pretty much identical... I can't help but wonder if less pattern-matching or some lemmas could help with readability?

File: Cubical/ZCohomology/RingStructure/RingLaws.agda [hunk 21]
```diff
@@ -0,0 +1,620 @@
...
+               (cong (x ⌣ₖ_) (⌣ₖ-0ₖ (suc m) (suc k) (0ₖ _)) ∙ ⌣ₖ-0ₖ (suc n) _ x) refl
+    help = compPathR→PathP
+      (cong (_∙ ⌣ₖ-0ₖ (suc n) ((suc m) +' (suc k)) x) (h n m k x)
+      ∙∙ rUnit _
+      ∙∙ cong ((cong (x ⌣ₖ_) (0ₖ-⌣ₖ (suc m) (suc k) (0ₖ _)) ∙ ⌣ₖ-0ₖ (suc n) _ x) ∙_) (rUnit refl))
+
+  assoc2-sub : (n m k : ℕ) → _ → _
+  assoc2-sub n m k = subst coHomK (sym (+'-assoc n m k))
+
+  assoc2-sub-0 : (n m k : ℕ) → assoc2-sub n m k (0ₖ _) ≡ 0ₖ _
```
Comment (mortberg) [inline Cubical/ZCohomology/RingStructure/RingLaws.agda:312]: Yikes, can't one write this kind of thing nicer? Maybe @ecavallo or @Saizan has some ideas?

**Review by mortberg — CHANGES_REQUESTED** [review]
Very amazing stuff! I had some comments on how to clean up the code a bit and once that is done I would be very happy to merge.

One thing that is confusing to me is why you pattern-match on everything so deeply everywhere (especially in graded commutativity) when many cases then are the same... Can't you just combine these cases with `_`?

**Comment by mortberg** [comment]
PS: there are some white space issues in the summary file...

File: Cubical/Data/Nat/Base.agda (hunk 3 above)
Comment (aljungstrom) [reply Cubical/Data/Nat/Base.agda:51]: Sure, made isEven like that now. For isOdd, I do think it's nice to define it as isEven (suc n). That way, anything proved about isEven will automatically hold for isOdd.

File: Cubical/ZCohomology/RingStructure/CupProduct.agda (hunk 12 above)
Comment (aljungstrom) [reply Cubical/ZCohomology/RingStructure/CupProduct.agda:23]: I want to be able to use it in the other files here, so private isn't going to work.

It's really designed specifically for the cup product because of the definition of `coHomK`, so I feel like this is the most reasonable place to put it.

File: Cubical/ZCohomology/RingStructure/GradedCommutativity.agda (hunk 15 above)
Comment (aljungstrom) [reply Cubical/ZCohomology/RingStructure/GradedCommutativity.agda:43]: Yeah, it's just an instance of `substCommSlice` that I use repeatedly here. Just wanted some arguments to be implicit.

File: Cubical/ZCohomology/RingStructure/GradedCommutativity.agda (hunk 18 above)
Comment (aljungstrom) [reply Cubical/ZCohomology/RingStructure/GradedCommutativity.agda:158]: > Is this this exactly the same as the `-ₖ-gen-inl-right {k = suc (suc k)} n m (inl x₁) q` case?

Yeah, but I don't really see how I can reuse that proof. The two functions are only definitionally equal modulo pattern matching.

Comment (aljungstrom) [reply Cubical/ZCohomology/RingStructure/GradedCommutativity.agda:158]: > Same for some other cases here... Why not use `_`?

Where?

File: Cubical/ZCohomology/RingStructure/GradedCommutativity.agda (hunk 19 above)
Comment (aljungstrom) [reply Cubical/ZCohomology/RingStructure/GradedCommutativity.agda:751]: Watch out, he's going to turn it into one line

File: Cubical/ZCohomology/RingStructure/GradedCommutativity.agda (hunk 20 above)
Comment (aljungstrom) [reply Cubical/ZCohomology/RingStructure/GradedCommutativity.agda:219]: Hehe, this has already been cleaned up (300 lines shorter than the original). Maybe we could just add a todo and I can go back and have a last check later. 

The problem is that you have a bunch of even and odd numbers occurring in different orders in different places. It was quite hard to capture this kind of stuff in in more general lemmas. Everything happens in Omega^2 too, so I have to rely quite a bit on reductions (hence the pattern matching).

File: Cubical/Foundations/Path.agda (hunk 7 above)
Comment (aljungstrom) [reply Cubical/Foundations/Path.agda:192]: Because copy-paste;-) Fixed now.

File: Cubical/Data/Nat/Properties.agda (hunk 5 above)
Comment (aljungstrom) [reply Cubical/Data/Nat/Properties.agda:202]: Since I define `isOdd' n` as `isEven' (suc n)`, it's the same thing. But I added it now for completeness.

File: Cubical/Data/Nat/Properties.agda (hunk 4 above)
Comment (aljungstrom) [reply Cubical/Data/Nat/Properties.agda:184]: Oh yeah, wups. For both definitions actually.

Comment (aljungstrom) [reply Cubical/Data/Nat/Properties.agda:184]: I think I'll just remove this actually

File: Cubical/Data/Nat/Base.agda (hunk 3 above)
Comment (aljungstrom) [reply Cubical/Data/Nat/Base.agda:51]: > PS: there are some white space issues in the summary file...

... as is tradition.

**Comment by aljungstrom** [comment]
> PS: there are some white space issues in the summary file...

... as is tradition.

File: Cubical/ZCohomology/RingStructure/CupProduct.agda (hunk 12 above)
Comment (mortberg) [reply Cubical/ZCohomology/RingStructure/CupProduct.agda:23]: Ok, let's leave it as is then!

File: Cubical/ZCohomology/RingStructure/GradedCommutativity.agda (hunk 20 above)
Comment (mortberg) [reply Cubical/ZCohomology/RingStructure/GradedCommutativity.agda:211]: Ah ok! Leaving a TODO sounds good!

**Review by mortberg — APPROVED** [review]
